US07265246B2
Prepare a solution of thiophene carboxylic acid (500 mg, 3.90 mmol) in HOAc (5 mL). Add Br2 (0.17 mL, 0.85 mmol), in HOAc (3 mL), dropwise. Then stir the mixture for 15 minutes at room temperature under nitrogen. Quench the reaction with ice cold water and stir for an additional 10 minutes. Cool the solution −10° C. when the product will precipitate out. Filter the solution, rinse the filter cake with ice cold water, and dry the product to afford 473 mg of 5-bromothiophene-3-carboxylic acid as a white solid. 1H NMR (dimethylsulfoxide-d6) δ 12.90 (br s, 1H), 8.18 (d, J=1.5 Hz, 1H), 7.46 (d, J=1.5 Hz, 1H).

reactant | thiophene carboxylic acid | 3.90 mmol, 500 mg | C=1C=C(SC1)C(=O)O | C5H4O2S
reactant | Br2 | 0.85 mmol, 0.17 mL | BrBr | Br2
reactant | HOAc | 5 mL | CC(=O)O | C2H4O2
reactant | HOAc | 3 mL | CC(=O)O | C2H4O2
product | 5-bromothiophene-3-carboxylic acid | 473 mg | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
